### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/GeneralLinearGroup/Defs): add the proof of the range of toGL to be the ker of the determinant and the induced equivalence

### PR DESCRIPTION
**Pull request by Nicola9Falciola**
Add a lemma proving that the `toGL.range ` is equal to `det.ker` and the induced equivalence between `SL` and `det.ker` . 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 1]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
 @[simp]
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma toGL_range :
+  (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
```
Comment (pepamontero) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: Statements should be indented by 4 spaces instead of 2 like proofs are:

```suggestion
    (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 2]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA => ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
+
+/-- `Matrix.SpecialLinearGroup` is eqquivalent to `GeneralLinearGroup.det.ker` -/
+noncomputable def toGLKerEquiv :
+  SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker :=
```
Comment (pepamontero) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: Similarly here

```suggestion
    SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker :=
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 3]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma toGL_range :
+  (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA => ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
+
+/-- `Matrix.SpecialLinearGroup` is eqquivalent to `GeneralLinearGroup.det.ker` -/
```
Comment (pepamontero) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: There is a typo here, nonetheless I think this docstring is not very descriptive as it basically reads the statement. Something similar to other docstrings in the same file could be

/-- `toGLKerEquiv` is the multiplicative equivalence between `SpecialLinearGroup n R` and the kernel of
`GeneralLinearGroup.det : GL n R →* Rˣ`, induced by the inclusion `toGL`. -/

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 4]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+noncomputable def toGLKerEquiv :
+  SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker :=
+  (MonoidHom.ofInjective toGL_injective).trans
```
Comment (pepamontero) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: Since this proof fits in one line staying under the 100 character limit I think you can put it in one line:


```suggestion
  (MonoidHom.ofInjective toGL_injective).trans (MulEquiv.subgroupCongr toGL_range)
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 5]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
 
+lemma toGL_range :
+  (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA => ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
+
+/-- `Matrix.SpecialLinearGroup` is eqquivalent to `GeneralLinearGroup.det.ker` -/
+noncomputable def toGLKerEquiv :
```
Comment (pepamontero) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:290]: About the naming of this definition, I feel it's not very informative about what Equiv you're talking about. I am not super knowledgeable about this specifically, so maybe there are better options, but maybe `detKerEquivSpecialLinearGroup` would be better? Although this might mean changing the order of the statement to `(GeneralLinearGroup.det : GL n R →* Rˣ).ker ≃* SpecialLinearGroup n R`.

**Review by pepamontero — COMMENTED** [review]
Thanks for your PR, this seems like an useful addition! I've left a few comments, but they're mostly about style and format. I'm happy to hear pushback on any of them, especially the docs and naming ones since I'm not super familiar with the conventions in this module.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean (hunk 5 above)
Comment (Nicola9Falciola) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:290]: Maybe the name it is not the best one, however I think the order of the statement is more practical in this direction in my own opinion.

**Comment by pepamontero** [comment]
I believe CI is breaking because the last proof has now a repeated `(MulEquiv.subgroupCongr toGL_range)` in line 293. Other than that it looks good to me!

**Comment by Nicola9Falciola** [comment]
Thank you, I should have adjust the issue.

**Comment by Nicola9Falciola** [comment]
I have refactor the proof of the equivalence `toGLKerEquiv` in order to drop the `noncomputable`

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 6]
```diff
@@ -278,6 +278,21 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
 @[simp]
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma range_toGL_eq_ker_det :
+    (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA ↦ ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: for readability:
```suggestion
  simp only [MonoidHom.mem_range, MonoidHom.mem_ker]
  refine ⟨fun ⟨g, hg⟩ ↦ by simp [← hg], fun hA ↦ ⟨⟨A, ?_⟩, Units.ext rfl⟩⟩
  rw [← GeneralLinearGroup.val_det_apply, hA, Units.val_one]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 7]
```diff
@@ -278,6 +278,21 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+
+/-- `Matrix.SpecialLinearGroup` is isomorphic to `GeneralLinearGroup.det.ker` -/
+def toGLKerEquiv : SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker where
+  toFun g := ⟨toGL g, coeToGL_det g⟩
+  invFun A := ⟨A.val.val, by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val A.2⟩
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]:
```suggestion
  invFun A := ⟨A.val.val, by simpa using congrArg Units.val A.2⟩
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 8]
```diff
@@ -278,6 +278,21 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+  left_inv g := rfl
+  right_inv A := Subtype.ext (Units.ext rfl)
+  map_mul' g h := Subtype.ext (Units.ext rfl)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]:
```suggestion
  left_inv _ := rfl
  right_inv _ := Subtype.ext (Units.ext rfl)
  map_mul' _ _ := Subtype.ext (Units.ext rfl)
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 9]
```diff
@@ -278,6 +278,21 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma range_toGL_eq_ker_det :
+    (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA ↦ ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
+
+/-- `Matrix.SpecialLinearGroup` is isomorphic to `GeneralLinearGroup.det.ker` -/
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]:
```suggestion
/-- `Matrix.SpecialLinearGroup` is isomorphic to `GeneralLinearGroup.det.ker`. -/
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 10]
```diff
@@ -278,6 +278,21 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+def toGLKerEquiv : SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker where
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:307]: can you also add some basic API lemmas, like `coe_toGLKerEquiv_apply : (toGLKerEquiv g : GL n R) = toGL g` and the symm one?

Comment (Nicola9Falciola) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:307]: Yes, I have just added them.

Comment (Nicola9Falciola) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:307]: i have added them. Thank you for the suggestion.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 11]
```diff
@@ -293,6 +293,11 @@ def toGLKerEquiv : SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R
   right_inv _ := Subtype.ext (Units.ext rfl)
   map_mul' _ _ := Subtype.ext (Units.ext rfl)
 
+@[simp]
+lemma coe_toGLKerEquiv_apply {g : SpecialLinearGroup n R} : toGLKerEquiv g = toGL g := rfl
+
+lemma coe_toGLKerEquiv_apply_symm {g : SpecialLinearGroup n R} : toGL g = toGLKerEquiv g := rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: what I meant by the `symm` lemma is `toGLKerEquiv.symm A = A.val.val` or something like that

Comment (Nicola9Falciola) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: I am sorry, I have corrected it.

**Comment by Nicola9Falciola** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 12]
```diff
@@ -296,6 +296,28 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+
+/-- `Matrix.SpecialLinearGroup` is isomorphic to `GeneralLinearGroup.det.ker`. -/
+def toGLKerEquiv : SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker where
+  toFun g := ⟨toGL g, coeToGL_det g⟩
+  invFun A := ⟨A.val.val, by simpa using congrArg Units.val A.2⟩
+  left_inv _ := rfl
+  right_inv _ := Subtype.ext (Units.ext rfl)
+  map_mul' _ _ := Subtype.ext (Units.ext rfl)
+
+@[simp]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: Can those be generated by `simps`?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 13]
```diff
@@ -296,6 +296,28 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
 @[simp]
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma range_toGL_eq_ker_det :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:299]: Note that this is the same as [Matrix.SpecialLinearGroup.range_toGL](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Matrix.html#Matrix.SpecialLinearGroup.range_toGL) (that should be moved). Can you please fix it?
